US07875647B2
To a solution of 2-(3-chlorophenyl)acetonitrile (3.2 g, 21 mmol) and 1,2-dibromoethane (3 mL, 35 mmol) in toluene (20 ml), 35% sodium hydroxide and tetrabutylammonium iodide (400 mg, 1.3 mmol) were added. The mixture was vigorously stirred at room temperature for 4 hours. The resulting solution was diluted with water and extracted with ethyl acetate. The organic solution was concentrated to afford brown oil. Chromatography on silica gel (hexane/ethyl acetate=5/1) afforded 1-(3-chlorophenyl)cyclopropanecarbonitrile (2.1 g, 56% yield) as light yellow oil.

reactant | 2-(3-chlorophenyl)acetonitrile | 21 mmol, 3.2 g | ClC=1C=C(C=CC1)CC#N | C8H6ClN
reactant | 1,2-dibromoethane | 35 mmol, 3 mL | BrCCBr | C2H4Br2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium iodide | 1.3 mmol, 400 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-(3-chlorophenyl)cyclopropanecarbonitrile | 2.1 g, 56% yield | ClC=1C=C(C=CC1)C1(CC1)C#N | C10H8ClN
